US08039495B2
3-(2′,4′-Difluoro-biphenyl-4-yloxymethyl)-benzoic acid methyl ester (4.2 g, 11.86 mmol) and 2N KOH (23.72 mL, 47.45 mmol) in 210 mL MeOH were refluxed for 1 hr. The reaction mixture was cooled, concentrated and distributed into 200 mL H2O and 200 mL ethyl acetate. The aqueous layer was acidified with 2N HCl and separated. The organic layer was washed with saturated NaCl, dried over MgSO4, filtered and concentrated in vacuo to yield 4.0 g (99.1%) of 3-(2′,4′-difluoro-biphenyl-4-yloxymethyl)-benzoic acid as a white powder. LC-MS (ES) calculated for C20H14F2O3, 340.33; found m/z 339.1 [M−H]−.

reactant | 3-(2′,4′-Difluoro-biphenyl-4-yloxymethyl)-benzoic acid methyl ester | 11.86 mmol, 4.2 g | COC(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C21H16F2O3
reactant | KOH | 47.45 mmol, 2N, 23.72 mL | [OH-].[K+]
solvent | MeOH | 210 mL | CO | CH4O
product | 3-(2′,4′-difluoro-biphenyl-4-yloxymethyl)-benzoic acid | 4.0 g, 99.1% | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)OCC=1C=C(C(=O)O)C=CC1 | C20H14F2O3
